Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
left leg weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with h/o spinal stenosis, MI ___ s/p PCI x8 and preventive 
pacemaker, HF (unknown EF), tobacco x45 pack-years, transferred 
from ___ for left leg weakness. 

Patient felt well until ___ until when he developed a 
flu-like syndrome that began with chills and progressed to dry 
cough and muscle aches. No fever (checked at home), nausea, or 
diarrhea.  Was feeling better by ___ but then awoke 
from sleep the night of ___ with sharp pain in his lower 
back just left of center. Pain began to subside after several 
minutes. He then attempted to stand and walk but fell when he 
stepped on his left foot.

He went back to sleep, and when he awoke in the morning, had 
pain radiating from his left lateral buttock down the side of 
his thigh. He continued to have difficulty walking, feeling like 
he had to drag his foot around. He went to the ___, where 
he reports he was evaluated by Neurology and had a negative CT 
___ and Xray hip. He was seen by Orthopedics who performed hip 
maneuvers that he said were extremely painful.

He was discharged and was able to walk to his car and drive 
home, but then had to lift his left leg from the car and had 
another fall. He continued to have difficulty walking, and 
needed to use his mother's cane. His mother encouraged him to be 
reevaluated, and he re-presented to ___. 

At ___, he was afebrile with no leukocytosis. CT head was 
negative for stroke, and CT ___ was negative for fracture, 
stenosis, or foraminal narrowing. Patient could not get MRI due 
to pacemaker and was transferred to ___ for further 
evaluation.

In the ED, initial VS were 97.8, 63, 124/73, 16, 98% RA   
- Exam performed by neurology notable for tonic plantarflexion 
of his left foot with fully intact foot inversion. 
- Labs showed wbc 6.7, H/H 14.8/44.5, plt 143; Na 135, K 4.3, Cl 
99, Bicarb 21, BUN 10, Cr 0.8, gluc 141; CRP 46.2
- Lumbosacral XR confirmed no fracture
- Venous U/S ruled out DVT

Patient received pain medication and was admitted to medicine 
with plan for CT myelogram per neuro.

On arrival to the floor, patient reports pain is under control. 
No fevers, chills, paresthesias, incontinence.

 
Past Medical History:
- Spinal stenosis
- MIs in ___ (age ___, treated at ___, ___ (treated at 
___). s/p PCI x8 per patient. 
- Pacemaker placed for primary prevention per patient due to 
unstentable lesion in LAD
- Heart Failure: unknown EF. Followed at ___. No lifetime 
admissions for exacerbations.
- DM2: A1c high 6s-7s on metformin 500mg daily.
- HTN: baseline BP 100s/70s on home recordings
- Depression
- Tobacco: 1 ppd since age ___ (~45 pack-years). Quit for ___ year 
after second MI but relapsed.
- h/o cocaine use: quit in ___.
- marijuana use

 
Social History:
___
Family History:
Father: hereditary cancer syndrome with (patient was recommended 
testing but has not undergone). MI at age ___, DVTs/PEs, CVA, DM, 
HTN.
Mother: macular degeneration, alive at ___
Son: healthy
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VS:  97.6 105/68 61 20 93/RA
GENERAL: Appears stated age, pleasant, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM. Very poor dentition - fractured upper right molar, multiple 
missing teeth.
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: non-labored, diffuse rhonchi, no crackles or wheezes  
ABDOMEN: soft, NDNT, +BS, no HSM
EXTREMITIES: LLE cooler than RLE, diminished distal and 
popliteal pulses. No cyanosis, edema, or mottling.
NEURO: Normal mental status. CN ___ intact. Left foot with ___ 
strength in plantar and dorsiflexion, decreased reflex in left 
Achilles foot. decreased sensation along lateral aspect of left 
leg to thigh.
SKIN: erythematous circular scaly macules on bilateral inner 
thighs, right forearm.

DISCHARGE PHYSICAL EXAM:
VS: 97.8 ___ 54-65 93-97/RA
GENERAL: Appears stated age, pleasant, NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM. Very poor dentition - fractured upper right molar, multiple 
missing teeth.
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: non-labored, diffuse rhonchi, no crackles or wheezes  
ABDOMEN: soft, NDNT, +BS, no HSM
EXTREMITIES: LLE cooler than RLE, diminished distal and 
popliteal pulses. No cyanosis, edema, or mottling.
NEURO: Normal mental status. CN ___ intact. Improved strength 
in distal LLE, though still with some tonic plantarflexion. Gait 
unsteady, wanted to sit right back down.
SKIN: erythematous circular scaly macules on bilateral inner 
thighs, right forearm, L flank

 
Pertinent Results:
ADMISSION LABS
=====================
___ 12:25AM BLOOD WBC-6.7 RBC-4.90 Hgb-14.8 Hct-44.5 MCV-91 
MCH-30.2 MCHC-33.3 RDW-13.4 RDWSD-44.9 Plt ___
___ 12:25AM BLOOD Neuts-56.7 ___ Monos-10.2 
Eos-0.9* Baso-0.3 Im ___ AbsNeut-3.78 AbsLymp-2.10 
AbsMono-0.68 AbsEos-0.06 AbsBaso-0.02
___ 12:25AM BLOOD Glucose-141* UreaN-10 Creat-0.8 Na-135 
K-4.3 Cl-99 HCO3-21* AnGap-19

PERTINENT INTERVAL LABS
=====================
___ ESR 9
___ CRP 46.2*

___ 06:19AM BLOOD %HbA1c-8.1* eAG-186*
___ 06:19AM BLOOD Cholest-154 Triglyc-119 HDL-27 
CHOL/HD-5.7 LDLcalc-103

DISCHARGE LABS
=====================
___ 07:25AM BLOOD WBC-7.3 RBC-4.99 Hgb-15.4 Hct-46.3 MCV-93 
MCH-30.9 MCHC-33.3 RDW-13.3 RDWSD-45.2 Plt ___
___ 07:25AM BLOOD Glucose-108* UreaN-13 Creat-0.8 Na-138 
K-4.0 Cl-96 HCO3-26 AnGap-20
___ 07:25AM BLOOD Calcium-9.3 Phos-3.8 Mg-1.8

MICRO      
=====================
RPR w/check for Prozone (Final ___:       NONREACTIVE. 
___ 06:19AM BLOOD HIV Ab-Negative

Lyme IgG (Final ___:       NEGATIVE BY EIA. 
Lyme IgM (Final ___:       NEGATIVE BY EIA. 
      Negative results do not rule out B. burg___ infection. 
 Patients
      in early stages of infection or on antibiotic therapy may 
not produce
      detectable levels of antibody. 

URINE CULTURE (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGES & STUDIES
=====================
___ LUMBO-SACRAL ___ (AP
FINDINGS:  
5 non-rib-bearing lumbar vertebral bodies are present.  
Vertebral body and
disc heights are preserved.  No fracture or subluxation is 
detected.  There is
mild to moderate facet arthropathy throughout the lumbar ___.  
No suspicious
lytic or sclerotic lesion is identified.  There is extensive 
atherosclerotic
disease involving the abdominal aorta and iliac arteries 
bilaterally.
IMPRESSION: 
No acute fracture or malalignment of the lumbar ___.  
Mild-to-moderate facet
arthropathy.

___ LOWER EXT VEINS   
No evidence of deep venous thrombosis in the left lower 
extremity veins. 
Moderate calf edema.
 
 
Brief Hospital Course:
___ with spinal stenosis, h/o MI ___ s/p PCI and preventive 
pacemaker, transferred from ___ for acute on chronic back 
pain and distal LLE weakness, likely due to lumbosacral 
radiculopathy.

# Left lower extremity weakness -- probable L5/S1 radiculopathy
# Acute on chronic lower back pain
# Spinal stenosis
Has chronic spinal stenosis that may have been worsening over 
the past few months. Had previously presented to ___ and reports 
negative CT head and XR hip. Symptoms continued to worsen so he 
re-presented to ___. At ___, he was afebrile with no 
leukocytosis. CT head was negative for stroke, and CT ___ 
was negative for fracture, stenosis, or foraminal narrowing. 
Patient could not get MRI due to pacemaker and was transferred 
to ___ for further evaluation. 

At ___ he was evaluated by Ortho and Neuro in ED and admitted 
to Medicine. Weakness spontaneously improved, and CT myelogram 
was deferred. RPR, HIV, and Lyme serologies were negative. 
Patient was ambulating at baseline with pain well controlled on 
tramadol, and was discharged with close PCP and ___ follow up.

# Suspected peripheral vascular disease
On admission, the LLE was found to be cooler than the RLE with 
diminished DP, ___, and popliteal pulses. PVD was suspected given 
h/o early MI, DM2, and heavy smoking. ___ Doppler was negative 
for DVT. Coolness and pulses improved spontaneously and further 
workup was deferred. Consider ABIs as outpatient.

# CAD with early MIs s/p PCI x8
No acute ischemic signs/symptoms this admission. 
-Home metoprolol and lisinopril were held during admission and 
at discharge due to soft BPs.
-Home ASA, clopidogrel were continued
-Patient was not on a statin due to reported severe myopathy 
with rosuvastatin. Recommended discussing alternative statins 
with PCP given elevated risk.

# Elevated anion gap
Unclear etiology. Roughly stable this admission, possibly 
chronic. Hemodynamically stable with no evidence for 
hypoperfusion or infection.

# Rash
Erythematous circular lesions on inner thighs, right forearm, 
left flank. Present for at least one year patient, has involved 
chest and back, minimal response to prior therapy. DDx includes 
psoriasis, fungal infection. Recommended outpatient Derm f/u.

#DM2
A1c 8.1% this admission. Patient reports previously good control 
on just metformin 500mg daily. Unlikely the etiology of his 
neurologic complaints but Humalog ISS was prescribed in house to 
optimize glycemic control for neuroprotection. 

TRANSITIONAL ISSUES
====================
-Please reevaluate LLE strength and gait to ensure improvement. 
If worsening, consider CT myelogram. (Cannot get MRI due to 
pacemaker model per Cardiology.)
-Consider repeating CRP/ESR (CRP 46.2, ESR 9 this admission)
-Lisinopril and metoprolol held during hospitalization for SBP 
100s and HR ___. Please restart if BP tolerates given h/o MIs.
-A1c 8.1% this admission. Consider increasing metformin to 
1000mg BID.
-Patient not on statin due to reported myopathy with 
rosuvastatin. Would discuss initiating an alternative statin for 
secondary prevention. 
-Patient had stable elevated anion gap of ___. No evidence of 
infection or hypoperfusion. Consider repeat BMP at next PCP 
___.
-Macular rash: consider Derm referral. Has not resolved with ___ 
year of empiric therapy.

 
Medications on Admission:
1. MetFORMIN (Glucophage) 500 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. Metoprolol Succinate XL 50 mg PO DAILY 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO DAILY 
7. Aspirin 325 mg PO DAILY

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 2 
tablet(s) by mouth TID:PRN Disp #*90 Tablet Refills:*0 
2.  TraMADol 50 mg PO TID:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth TID PRN Disp #*30 Tablet 
Refills:*0 
3.  Aspirin 325 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  Fish Oil (Omega 3) 1000 mg PO DAILY  
7.  MetFORMIN (Glucophage) 500 mg PO DAILY  
8. HELD- Lisinopril 10 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you discuss with your primary care 
doctor
9. HELD- Metoprolol Succinate XL 50 mg PO DAILY  This medication 
was held. Do not restart Metoprolol Succinate XL until you 
discuss with your primary care doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Left lower extremity weakness (probable L5/S1 radiculopathy)
Acute on chronic lower back pain
Spinal stenosis

Secondary Diagnoses:
Coronary artery disease
Hypertension
Diabetes mellitus, type ___
Macular rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for back pain and weakness in your 
left leg. We monitored you closely and had our Neurology and 
___ specialists evaluate you. Your symptoms improved and you 
did not need another CT scan or surgery.

Instructions for when you leave the hospital:
1. Please follow up with your primary care doctor, Dr ___ 
___ Dr ___ on ___ at 9:00 AM.
2. Please follow up at the ___ on ___ at 11:30 
AM.
3. Take all of your medications as prescribed.
4. Be careful when taking your pain medications as they can make 
you sleepy. Avoid alcohol, driving, and operating heavy 
machinery.
5. Return to the hospital if you have worsening pain, fever, 
chills, worsening weakness, or incontinence.

It was a pleasure taking care of you!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___